US07977387B2
2-Fluoro-5-hydroxy-benzaldehyde (Compound 508)
2-Fluoro-5-methoxy-benzaldehyde (4 g, 26 mmol) was dissolved in dry DCM (25 mL) under an argon atmosphere, cooled to 0° C. and slowly added boron tribromide (26 mL, 1.0 M in DCM, 26 mmol). On completion of the addition the reaction mixture was allowed to warm to RT and stirred for 16 h under an argon atmosphere. The reaction was carefully quenched with water (10 mL), added sat. NaHCO3 (30 mL), then shaken and the layers were separated. The aqueous phase was extracted with two more portions of DCM. The organic phases were combined, extracted with 2N NaOH (2×100 mL). The combined NaOH-phases were acidified with HCl (konc.) and extracted with DCM (4×150 mL). The organic phases were combined, dried (MgSO4), filtered, and concentrated in vacuo to afford the crude product. Purified by chromatography using EtOAc/petroleum ether (40-60)(v:v=1:5) as the eluent, affording the title compound as a white solid.

reactant | 2-Fluoro-5-methoxy-benzaldehyde | 26 mmol, 4 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | boron tribromide | 26 mmol, 1.0 M, 26 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-5-hydroxy-benzaldehyde | FC1=C(C=O)C=C(C=C1)O | C7H5FO2
